US06020329
(d) 4-Methoxybenzyl (RS)-2-hydroxy-2-[4-[(2RS,5SR)-5-methoxycarbonyltetrahydrofuran-2-ylcarbonylmethylthio)-3-phenylacetamidoazetidin-2-on-1-yl]acetate
4-Methoxybenzyl glyoxylate hydrate (1.50g) in dichloroethane (30ml) was heated at reflux for 1h using a Dean and Stark apparatus for heavy entrainers. The mixture was cooled to room temperature and then a solution of (3R,4R)-4-[(2RS,5SR)-5-methoxycarbonyltetrahydrofuran-2-ylcarbonylmethylthio]-3-phenylacetamidoazetidin-2-one (2.208g) in dichloroethane (20ml) was added followed by triethylamine (0.1ml). The mixture was stirred at room temperature for 1h and then the solvents were evaporated. The title compound was obtained as a mixture of isomers (2.66g) by column chromatography of the residue using gradient elution (silica gel, 1:1 hexane:ethyl acetate going to neat ethyl acetate); vmax (CHCl3) 3412, 1776, 1741 and 1681cm-1.

reactant | 4-Methoxybenzyl glyoxylate hydrate | 1.50g | O.C(C=O)(=O)OCC1=CC=C(C=C1)OC
reactant | (3R,4R)-4-[(2RS,5SR)-5-methoxycarbonyltetrahydrofuran-2-ylcarbonylmethylthio]-3-phenylacetamidoazetidin-2-one | 2.208g | COC(=O)C1CCC(O1)C(=O)CS[C@@H]1[C@@H](C(N1)=O)NC(CC1=CC=CC=C1)=O | C19H22N2O6S
reactant | triethylamine | 0.1ml | C(C)N(CC)CC | C6H15N
solvent | dichloroethane | 30ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 20ml | ClC(C)Cl | C2H4Cl2
product | 4-Methoxybenzyl (RS)-2-hydroxy-2-[4-[(2RS,5SR)-5-methoxycarbonyltetrahydrofuran-2-ylcarbonylmethylthio)-3-phenylacetamidoazetidin-2-on-1-yl]acetate | OC(C(=O)OCC1=CC=C(C=C1)OC)N1C(C(C1SCC(=O)C1OC(CC1)C(=O)OC)NC(CC1=CC=CC=C1)=O)=O | C29H32N2O10S
